US06573272B1
b) 9-{[4-(Carboxymethyl)phenyl]methyl}-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]-indole Mono Hydrochloride
To a solution of 2-benzyloxycarbonyl-9-{[4-(carboxymethyl)phenyl]methyl}-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]indole (6.91 g, 15.22 mmole) in methanol (50 mL), dioxane (50 mL) and HCl (19 mL, 1M in dioxane) at RT in a Parr hydrogenation flask was added 10% Pd/C (0.5 g). The reaction mixture was shaken under 45 psi of H2 for 6 hr. The suspension was filtered through celite®, and the filter pad was washed with methanol. The filtrate was concentrated on the rotavap, and the residue was dried under high vacuum to afford the titled compound (5.22 g, 90%) as a white solid: MS (ES) m/e 345 (M+H−HCl)+.

reactant | 2-benzyloxycarbonyl-9-{[4-(carboxymethyl)phenyl]methyl}-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]indole | 15.22 mmole, 6.91 g | C(C1=CC=CC=C1)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)CC1=CC=C(C=C1)CC(=O)O | C28H26N2O4
reactant | HCl | 1M, 19 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 9-{[4-(Carboxymethyl)phenyl]methyl}-1,3,4,9-tetrahydro-2H-pyrido[3,4-b]-indole Mono Hydrochloride | 5.22 g, 90% | Cl.C(=O)(O)CC1=CC=C(C=C1)CN1C2=C(C3=CC=CC=C13)CCNC2 | InChI=1S/C20H20N2O2.ClH/c23-20(24)11-14-5-7-15(8-6-14)13-22-18-4-2-1-3-16(18)17-9-10-21-12-19(17)22;/h1-8,21H,9-13H2,(H,23,24);1H
